US08110687B2
To a mixture of 1-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]-4-methylpiperazine (440 mg, 1.3 mmol) and potassium hydroxide (1.46 g, 26. mmol) in EtOH (10 mL) and water (3 mL) was added hydroxylamine hydrochloride (2.72 g, 39 mmol. The reaction mixture was heated at reflux overnight. The reaction mixture was then concentrated and the residue was dissolved in water and EtOAc. The reaction mixture was extracted with EtOAc. The organic solutions were combined, washed with brine, dried over Na2SO4 filtered and concentrated. The residue was purified by column chromatography to give 3-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)aniline (247 mg, 73%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ: 6.55 (d, 1H), 6.40 (d, 1H), 6.33 (d, 1H), 3.24 (t, 4H), 2.61 (t, 4H), and 2.38 (s, 3H). LCMS: (FA) ES+ 260.2.

reactant | 1-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]-4-methylpiperazine | 1.3 mmol, 440 mg | CC=1N(C(=CC1)C)C=1C=C(C=C(C1)C(F)(F)F)N1CCN(CC1)C | C18H22F3N3
reactant | potassium hydroxide | 1.46 g | [OH-].[K+]
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 3 mL | O | H2O
product | 3-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)aniline | 247 mg, 73% | CN1CCN(CC1)C=1C=C(N)C=C(C1)C(F)(F)F | C12H16F3N3
